* C:\Users\munta\OneDrive\Desktop\EE310_Group9_Water-Level-Sensor\Phase2_Transmitter\555 timer implementations.asc
D1 VCC N005 1N914
Q1 VCC N002 N008 0 2N3904
Q2 N005 N008 N009 0 2N2222
R1 N009 0 47
R2 N002 0 4.7k
R3 VCC N002 10k
VCC VCC 0 12
V2 V+ 0 5
V3 Offset 0 2
M1 N004 N006 0 0 IRFZ44N
D2 N001 N004 1N914
R13 V+ N001 47
C4 V+ 0 100n
R14 N006 Led 100
R4 5V Vr 33k
R5 Vr N007 33k
D5 Vc N007 BAT54
C2 Vc 0 400p
D6 Vr Vc BAT54
XU1 0 Vc Led 5V N003 Vc Vr 5V NE555
C1 0 N003 100nF
.model D D
.lib C:\Users\munta\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\munta\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\munta\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1000ms
.include TLC081.mod
.include LM324.lib
.include LM358.mod
.include LM393A.txt
* .include LM358.txt
* i think that the square wave generator is mostly fine maybe just tweaks if we want different frequencys
* change in voltage is changed to be 1.5V to try fit in the characteristics of the TLC082 better(0.18 - 4.3)V
* Darlton pair
.include irlz44n.txt
.lib NE555.sub
.backanno
.end
