* C:\Users\munta\OneDrive\Desktop\EE310_Group9_Water-Level-Sensor\Phase2_Transmitter\555 timer implementations.asc
VCC VCC 0 12
V2 5V 0 5
V3 Offset 0 2
R4 5V Vr 100k
R5 Vr N005 100k
D5 Vc N005 BAT54
C2 Vc 0 200p
D6 Vr Vc BAT54
XU1 0 Vc Led 5V N002 Vc Vr 5V NE555
C1 0 N002 100nF
M2 N003 N004 0 0 IRFZ44N
D1 N001 N003 1N914
R1 V+ N001 47
C3 V+ 0 100n
R2 N004 Led 100
.model D D
.lib C:\Users\munta\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\munta\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 1m 0 10n
.include TLC081.mod
.include LM324.lib
.include LM358.mod
.include LM393A.txt
* .include LM358.txt
* i think that the square wave generator is mostly fine maybe just tweaks if we want different frequencys
* change in voltage is changed to be 1.5V to try fit in the characteristics of the TLC082 better(0.18 - 4.3)V
.include irlz44n.txt
.lib NE555.sub
.backanno
.end
