* C:\EE310_Group9_Water-Level-Sensor\Phase2_Transmitter\555 timer implementations.asc
* Generated by LTspice 26.0.1 for Windows.
VCC VCC 0 12
V2 5V 0 5
V3 Offset 0 2
R4 5V Vr 56k
R5 Vr N005 56k
D5 Vc N005 BAT54
C2 Vc 0 1500p
D6 Vr Vc BAT54
X§U1 0 Vc Led 5V N002 Vc Vr 5V NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
C1 0 N002 100nF
M2 N003 N004 0 0 IRLHS6376
D1 N001 N003 1N914
R1 5V N001 47
C3 5V 0 100n
R2 N004 Led 100
.model D D
.lib C:\Users\realh\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\realh\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 1m 0 10n
.include TLC081.mod
.include LM324.lib
.include LM358.mod
.include LM393A.txt
* .include LM358.txt
* i think that the square wave generator is mostly fine maybe just tweaks if we want different frequencys
* change in voltage is changed to be 1.5V to try fit in the characteristics of the TLC082 better(0.18 - 4.3)V
.model IRLHS6376
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\realh\AppData\Local\LTspice\lib\sym\Misc\NE555.asy)
.lib NE555.sub
.backanno
.end
